US07863291B2
(3,4-Dichlorophenyl)methanamine (2 g, 11.4 mmol) was added to a solution of methyl 2,2-diethoxyacetimidate (2.04 g, 12.6 mmol) in methanol (10 ml). The mixture was heated at 70° C. for 1 h. The mixture was purified by chromatography (Biotage: 100% ethyl acetate). The desired fractions were concentrated to yield N-(3,4-dichlorobenzyl)-2,2-diethoxyacetimidamide (2.8 g, 9.2 mmol, 72.7% yield) as a colorless viscous oil. 1H NMR (500 MHz, CDCl3) δ ppm 7.45 (m, 1 H), 7.40 (m, 1 H), 7.19 (dd, J=8.09, 1.98 Hz, 1 H), 4.94 (s, 1 H), 4.43 (s, 2 H), 3.47-3.77 (m, 4 H), 1.41-1.79 (m, 6 H). LC/MS RT=2.15; [M+H]+=305.1.

reactant | (3,4-Dichlorophenyl)methanamine | 11.4 mmol, 2 g | ClC=1C=C(C=CC1Cl)CN | C7H7Cl2N
reactant | methyl 2,2-diethoxyacetimidate | 12.6 mmol, 2.04 g | C(C)OC(C(OC)=N)OCC | C7H15NO3
solvent | methanol | 10 ml | CO | CH4O
product | N-(3,4-dichlorobenzyl)-2,2-diethoxyacetimidamide | 9.2 mmol, 2.8 g, 72.7% yield | ClC=1C=C(CNC(C(OCC)OCC)=N)C=CC1Cl | C13H18Cl2N2O2
